US04364875
2-Chloro-4-nitro-3-phenoxy-1-(2,5-dichloro-4-methylthiophenoxy)-benzene
A mixture of 14.2 gm of 2,3-dichloro-6-nitro-1-phenoxy-benzene, 10.2 gm of 2,5-dichloro-4-methylthiophenol, 5.0 ml of 10 N sodium hydroxide and 40 ml of dimethylsulfoxide was stirred for 5 hours at 100° C. and then allowed to stand overnight at room temperature. Thereafter, the reaction mixture was admixed with 400 ml of 1 N sodium hydroxide, and the product precipitated thereby was collected and recrystallized from 150 ml of ethanol. 20.5 gm (90% of theory) of the light yellow crystalline title compound, m.p. 138°-144° C., were obtained.

reactant | 2,3-dichloro-6-nitro-1-phenoxy-benzene | 14.2 gm | ClC1=C(C(=CC=C1Cl)[N+](=O)[O-])OC1=CC=CC=C1 | C12H7Cl2NO3
reactant | 2,5-dichloro-4-methylthiophenol | 10.2 gm | ClC1=C(C=C(C(=C1)C)Cl)S | C7H6Cl2S
reactant | sodium hydroxide | 10 N, 5.0 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1 N, 400 ml | [OH-].[Na+]
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 2-Chloro-4-nitro-3-phenoxy-1-(2,5-dichloro-4-methylthiophenoxy)-benzene | ClC1=C(C=CC(=C1OC1=CC=CC=C1)[N+](=O)[O-])SC1=C(C=C(C(=C1)Cl)C)Cl | C19H12Cl3NO3S
